US07829560B2
N-[4-({2-[(1,3-Dioxolan-2-ylmethyl)(methyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-morpholin-4-ylbenzamide (Compound B349).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and [1,3]dioxolan-2-ylmethyl-methylamine according to conditions described in general procedure C. Mp: 111-112° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.75-3.96 (m, 8 H), 3.27 (m, 4 H), 3.80 (m, 4H), 4.75-5.0 (m, 2 H), 6.27 (d, J=5.1Hz, 1 H), 7.05 (d, J=12.5 Hz, 1 H), 7.28 (d, J=8.8 Hz, 1 H), 7.42-7.62 (m, 5 H), 7.84 (d, J=7.7 Hz, 1 H), 7.99-8.01 (m, 1 H), 8.28 (d, J=5.5 Hz, 1 H), 10.47 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | [1,3]dioxolan-2-ylmethyl-methylamine | O1C(OCC1)CNC | C5H11NO2
product | N-[4-({2-[(1,3-Dioxolan-2-ylmethyl)(methyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-morpholin-4-ylbenzamide | O1C(OCC1)CN(C1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O)C | C30H30FN5O5
